US09403810B2
Step 1: [4-Isopropylcyclohex-1-en-1-yl trifluoromethanesulfonate]
A solution of 4-isopropylcyclohexanone (1 g, 7.13 mmol) in dry THF (3 mL) under nitrogen and cooled to −70° C. was treated dropwise with 2M LDA (in THF/heptane/ethylbenzene) (4.28 mL, 8.56 mmol). After addition was complete the mixture was allowed to stir at −70° C. for 1.5 hours. To the mixture was added a solution of 1,1,1-trifluoro-N-(pyridin-2-yl)-N-((trifluoromethyl)sulfonyl)methanesulfonamide (2.81 g, 7.84 mmol) in dry THF (2 mL). The reaction was maintained at −70° C., stirred for 3 hrs and quenched carefully with water and left to stand overnight. The resulting mixture was extracted with diethyl ether and the combined organic extracts were washed with 10% NaOH (aq), dried over MgSO4 and filtered. The solvent was removed under reduced pressure to afford crude material. The crude material was adsorbed onto silica and purification by chromatography eluting with 100% iso-hexane afforded the title compound;

reactant | 4-isopropylcyclohexanone | 7.13 mmol, 1 g | C(C)(C)C1CCC(CC1)=O | C9H16O
reactant | LDA | 8.56 mmol, 2M, 4.28 mL | [Li+].CC(C)[N-]C(C)C
reactant | 1,1,1-trifluoro-N-(pyridin-2-yl)-N-((trifluoromethyl)sulfonyl)methanesulfonamide | 7.84 mmol, 2.81 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=CC=C1)(F)F | C7H4F6N2O4S2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-Isopropylcyclohex-1-en-1-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CCC(CC1)C(C)C)(F)F | C10H15F3O3S
